US05217975
4-(1-m-Nitrobenzoyl-1,2,3-triazol-4-yl)-1-azabicyclo-[2.2.1]heptane (D25)
A solution of 4-(triphenylphosphinemethylenecarbonyl)-1-azabicyclo [2.2.1]heptane (D24) (4 g, 0.01 mole) in dry acetonitrile (80 ml) was treated with m-nitrobenzoylazide* (3.8 g, 0.020 mole) under nitrogen and the solution heated to reflux for 2 h. The solution was then concentrated in vacuo to a gum which was dissolved in ethyl acetate (30 ml) and allowed to stand at 0° C. overnight when the title compound (D25) (1.35 g, 0.0043 mole, 43%) crystallised out.

reactant | m-nitrobenzoylazide | [N+](=O)([O-])C=1C=C(C(=O)N=[N+]=[N-])C=CC1 | C7H4N4O3
reactant | acetonitrile | 80 ml | C(C)#N | C2H3N
product | 4-(1-m-Nitrobenzoyl-1,2,3-triazol-4-yl)-1-azabicyclo-[2.2.1]heptane | [N+](=O)([O-])C=1C=C(C(=O)N2N=NC(=C2)C23CCN(CC2)C3)C=CC1 | C15H15N5O3
